US09278973B2
A mixture of 5-methyl-2H-1,2,4-triazol-3-amine (147 mg, 1.50 mmol, 1.00 equiv), acetic acid (3 mL), and ethyl 3-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-3-oxopropanoate (375 mg, 1.50 mmol, 1.00 equiv) was stirred for 16 hr at 120° C., then concentrated to dryness. The resulting solid was washed by 5 mL MeOH and collected by filtration. The solid was dissolved in 10 mL of NH4OH (aq.) and filtered. The filtrate was adjusted to pH<5 with HOAc, then concentrated to dryness. The resulting solid was washed by 10 mL water, collected by filtration, and dried to get 50 mg (12%) of 5-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-methyl-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one as a yellow solid.

reactant | 5-methyl-2H-1,2,4-triazol-3-amine | 1.50 mmol, 147 mg, 1.00 equiv | CC=1N=C(NN1)N | C3H6N4
reactant | ethyl 3-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-3-oxopropanoate | 1.50 mmol, 375 mg, 1.00 equiv | O1C2=C(OCC1)C=C(C=C2)C(CC(=O)OCC)=O | C13H14O5
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 5-(2,3-dihydrobenzo[b][1,4]dioxin-6-yl)-2-methyl-[1,2,4]triazolo[1,5-α]pyrimidin-7(4H)-one | 50 mg, 12% | O1C2=C(OCC1)C=C(C=C2)C=2NC=1N(C(C2)=O)N=C(N1)C | C14H12N4O3
